US05216015
Step 2: Preparation of 3α-tert-butyldiphenylsilyloxy-12α-trimethylsilyloxy-5β-androstan-17-one
A solution of 3α-tert-butyldiphenylsilyloxy-12α-hydroxy-5β-androstan-17-one (14.6 g) in ether (75 ml) is cooled to 0° C. and 2,6-lutidine (4.2 ml), trimethylsilyl trifluoromethanesulfonate (4.6 ml) are added and the mixture allowed to warm to room temperature, stirred for about 15 minutes, then diluted with ether. The organic solution was washed with dilute aqueous sodium bicarbonate, water and brine, then dried over magnesium sulfate, filtered, concentrated in vacuo, and the crude product purified by flash chromatography in 15% ether in hexane to give the desired product.

reactant | 3α-tert-butyldiphenylsilyloxy-12α-hydroxy-5β-androstan-17-one | 14.6 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)O)=O | C35H48O3Si
reactant | 2,6-lutidine | 4.2 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trimethylsilyl trifluoromethanesulfonate | 4.6 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | ether | 75 ml | CCOCC | C4H10O
product | 3α-tert-butyldiphenylsilyloxy-12α-trimethylsilyloxy-5β-androstan-17-one | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)O[Si](C)(C)C)=O | C38H56O3Si2
